US06982348B2
To a suspension (70 ml) of zinc chloride (4.94 g, 36.2 mmol) in ether was added sodium borohydride (2.74 g, 72.4 mmol) at room temperature, and the mixture was stirred as it was for 2 hrs. Insoluble material was filtered off. To the filtrate was added a solution of ethyl 3-(3-chlorophenyl)-2-[4-(1,1-difluoro-2,2-dimethylpropyl)benzyl]-3-oxopropionate (7.59 g, 18.1 mmol) in ether (50 ml), and the mixture was stirred at room temperature for 1 hr. The reaction was quenched with 1N hydrochloric acid, and the mixture was diluted with ethyl acetate, washed with water and saturated brine. The mixture was dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=15:1, 10:1, 5:1) to give ethyl (2RS,3RS)-3-(3-chlorophenyl)-3-hydroxy-2-[4-(1,1-difluoro-2,2-dimethylpropyl)benzyl]propionate (6.12 g, 80%) as a pale-yellow oil.

reactant | sodium borohydride | 72.4 mmol, 2.74 g | [BH4-].[Na+]
reactant | ethyl 3-(3-chlorophenyl)-2-[4-(1,1-difluoro-2,2-dimethylpropyl)benzyl]-3-oxopropionate | 18.1 mmol, 7.59 g | ClC=1C=C(C=CC1)C(C(C(=O)OCC)CC1=CC=C(C=C1)C(C(C)(C)C)(F)F)=O | C23H25ClF2O3
solvent | ether | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
catalyst | zinc chloride | 36.2 mmol, 70 ml, 4.94 g | [Cl-].[Zn+2].[Cl-]
product | ethyl (2RS,3RS)-3-(3-chlorophenyl)-3-hydroxy-2-[4-(1,1-difluoro-2,2-dimethylpropyl)benzyl]propionate | 6.12 g, 80% | ClC=1C=C(C=CC1)C(C(C(=O)OCC)CC1=CC=C(C=C1)C(C(C)(C)C)(F)F)O | C23H27ClF2O3
